US20010020079A1
N-t-BOC, N′-methyl, N′-methacryloyl-ethylenediamine (2.5 mmol, 0.61 g) was stirred in a solution of 3 M HCl in ethyl acetate (2.5 cm3) at room temperature for 30 min. The solution was then conc. in vacuo to give the intermediate N-methyl, N′-methacryloyl-ethylenediamine monohydrochloride as a clear yellow oil. This intermediate (2.5 mmol) was then stirred at room temperature in 2 M NaOH (3 cm3) for 10 min. The reaction mixture was cooled to 0° C. and to this, was then added a solution of acryloyl chloride (2.8 mmol, 0.23 cm3) in chloroform (7 cm3), dropwise, over 30 min. After the addition was complete, the reaction mixture was stirred at 0° C. for a further 1 h. The organic and aqueous phases were then separated, and the aqueous phase extracted with chloroform. The organic extracts were combined, dried (MgSO4), filtered and conc. in vacuo, to give the crude product. The crude product was stirred at room temperature over a slurry of basic alumina in chloroform for 18 hr. Removal of the alumina and concentration of the filtrate then gave a pale yellow oil. Purification by flash chromatography (silica gel, diethyl ether:hexane:methanol elution) then gave the crosslinker N-methyl, N-acryloyl, N′-methacryloyl-ethylenediamine as a pale yellow oil (0.26 g, 53%). δH (300 MHz; CDCl3) 7.01 (1 H, br s), N+E,uns H; 6.50 (1 H, dd, J 16.8, 10.4 Hz), +E,uns HC═CHaHb; 6.22 (1 H, dd, J 12.4, 2.0), HC═C+E,uns HaHb; 5.66 (br m), (H3C)C═C+E,uns HcHd; 5.61 (1 H, d, J 10.5 Hz), HC═CHa+E,uns Hb; 5.23 (br m), (H3C)C═CHc+E,uns Hd; 3.57 (2 H, br m), C+E,uns H2; 3.43 (2 H, br m), C+E,uns H2; 3.00, (3 H, br m) N(C+E,uns H3);1.85 (3 H, br m), C+E,uns H3. δC (75.4 MHz; CDCl3, 50° C.) 166.10, NHO+E,uns C(H3C)C═CH2; 165.04, NO+E,uns CHC═CH2; 140.40, (H3C)+E,uns C═CH2; 130.92, HC═+E,uns CH2: 126.01, H+E,uns C═CH2; 118.50, (H3C)C═+E,uns CH2; 44.83, +E,uns CH2CH2; 35.47, CH2+E,uns CH2; 34.12, N(+E,uns CH3); 18.50, +E,uns CH3. Found: M+. 196.26.

reactant | N′-methacryloyl-ethylenediamine | 2.5 mmol, 0.61 g | C(C(=C)C)(=O)NCCN | C6H12N2O
reactant | HCl | 3 M | Cl | ClH
solvent | ethyl acetate | 2.5 cm3 | C(C)(=O)OCC | C4H8O2
product | N′-methacryloyl-ethylenediamine monohydrochloride | Cl.C(C(=C)C)(=O)NCCN | InChI=1S/C6H12N2O.ClH/c1-5(2)6(9)8-4-3-7;/h1,3-4,7H2,2H3,(H,8,9);1H
